US07727979B2
2-bromo-4,4-diphenylcyclohexanone (Starting Product for Example C-49)
The bromination of 4,4-diphenylcyclohexanone takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 4,4-diphenylcyclohexanone | C1(=CC=CC=C1)C1(CCC(CC1)=O)C1=CC=CC=C1 | C18H18O
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 2-bromo-4,4-diphenylcyclohexanone | BrC1C(CCC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H17BrO
